US03993658
When equivalent amounts of 4,7-dimethoxy-1,3-diiminoisoindoline and 2-(2-methylbutylamino)-4-imino-2-thiazoline hydrochloride are substituted for the 1,3-diiminoisoindoline and 2-piperidino-4-imino-2-thiazoline hydrochloride respectively, in the procedure described in Example 9, part B above, there is obtained as the product 1-imino-4,7-dimethoxy-3-[2-(2-methylbutylamino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride.

reactant | 4,7-dimethoxy-1,3-diiminoisoindoline | COC1=C2C(NC(C2=C(C=C1)OC)=N)=N | C10H11N3O2
reactant | 2-(2-methylbutylamino)-4-imino-2-thiazoline hydrochloride | Cl.CC(CNC=1SCC(N1)=N)CC
reactant | 1,3-diiminoisoindoline | N=C1NC(C2=CC=CC=C12)=N | C8H7N3
reactant | 2-piperidino-4-imino-2-thiazoline hydrochloride | Cl.N1(CCCCC1)C=1SCC(N1)=N
product | 1-imino-4,7-dimethoxy-3-[2-(2-methylbutylamino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride | Cl.N=C1NC(C2=C(C=CC(=C12)OC)OC)=C1C(N=C(S1)NCC(CC)C)=N | InChI=1S/C18H23N5O2S.ClH/c1-5-9(2)8-21-18-23-17(20)15(26-18)14-12-10(24-3)6-7-11(25-4)13(12)16(19)22-14;/h6-7,9H,5,8H2,1-4H3,(H2,19,22)(H2,20,21,23);1H
